US07618959B2
(d) 1,1-dimethylethyl [2-(5-bromo-2-pyridinyl)ethyl]carbamate
To a stirred solution of [2-(5-bromo-2-pyridinyl)ethyl]amine (5.0 g, 25.0 mmole) in dry THF (50 mL) at RT was added di-tert-butyl dicarbonate (5.45 g, 25.0 mmole) in dry THF (20 mL). After 30 min, the reaction contents were concentrated under reduced pressure to give the title compound (7.50 g, 99%) as a white waxy solid: LC-MS (ES) m/e 301 (M+H)+.

reactant | [2-(5-bromo-2-pyridinyl)ethyl]amine | 25.0 mmole, 5.0 g | BrC=1C=CC(=NC1)CCN | C7H9BrN2
reactant | di-tert-butyl dicarbonate | 25.0 mmole, 5.45 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1,1-dimethylethyl [2-(5-bromo-2-pyridinyl)ethyl]carbamate | 7.50 g, 99% | BrC=1C=CC(=NC1)CCNC(OC(C)(C)C)=O | C12H17BrN2O2
